US05969139
3-Amino-5,5-dimethyl-2-cyclohexen-1-one was reacted with 2-bromobenzaldehyde in an analogous manner to that described in Example 1 to give 9-(2-bromophenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. Crystallization from dimethylformamide/water gave a yellow powder of melting point >285° C. (decomposition).

reactant | 3-Amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 2-bromobenzaldehyde | BrC1=C(C=O)C=CC=C1 | C7H5BrO
product | 9-(2-bromophenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | BrC1=C(C=CC=C1)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O | C23H26BrNO2
